US08440833B2
Stage 1: 1-[4-(2-Methyl-6-nitro-phenylamino)-phenyl]-ethanone
In a flask under an argon atmosphere are consecutively placed 2.16 g of 2-bromo-3-nitrotoluene, 1.69 g of 4-aminoacetophenone (1.25 equivalents), 229 mg of dipalladium trisdibenzylideneacetone (0.025 equivalents), 269 mg of DPEPhos (0.05 equivalents) and 4.07 g of cesium carbonate (1.25 equivalents). The toluene is added at room temperature. The heterogeneous reaction medium is purged with argon and refluxed for hours. After returning to room temperature, water and ethyl acetate are added. After separation of the phases, the organic phase is washed with water and then with a saturated NaCl solution, dried on sodium sulphate, filtered and then dry evaporated. The obtained red oil is purified by chromatography on silica (ethyl acetate/cyclohexane:5/95 to 10/90) in order to provide 2.29 g of the expected compound as a red oil.

reactant | 2-bromo-3-nitrotoluene | 2.16 g | BrC1=C(C=CC=C1[N+](=O)[O-])C | C7H6BrNO2
reactant | 4-aminoacetophenone | 1.69 g, 1.25 equivalents | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | cesium carbonate | 4.07 g, 1.25 equivalents | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | DPEPhos | 269 mg, 0.05 equivalents | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(2-Methyl-6-nitro-phenylamino)-phenyl]-ethanone | 2.29 g, Yield: 85% | CC1=C(C(=CC=C1)[N+](=O)[O-])NC1=CC=C(C=C1)C(C)=O | C15H14N2O3
